US05814646
1-[4-(5-Nitroquinol-6-ylthio)phenyl-3-(4-chloro-3-trifluoromethylphenyl)thiourea.
5-nitro-6-(4-aminophenylthio)quinoline 1.7 mmoles, 0.40 g) and 4-chloro-3-trifluoromethylphenylisothiocyanate 1.7 mmoles, 0.47 g) were reacted according to procedure C to yield the title compound, 0.78 g, 86% product. Mass spec (FD) 534. Calculated for C23H14ClF3 N4O2S2 : C, 51.64; H, 2.64, N, 10.47 Found: C, 51.84; H, 2.73; N, 10.43.

reactant | 5-nitro-6-(4-aminophenylthio)quinoline | 1.7 mmoles, 0.40 g | [N+](=O)([O-])C1=C2C=CC=NC2=CC=C1SC1=CC=C(C=C1)N | C15H11N3O2S
reactant | 4-chloro-3-trifluoromethylphenylisothiocyanate | 1.7 mmoles, 0.47 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | 4-(5-Nitroquinol-6-ylthio)phenyl-3-(4-chloro-3-trifluoromethylphenyl)thiourea | [N+](=O)([O-])C1=C2C=CC=NC2=CC=C1SC1=CC=C(C=C1)NC(=S)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C23H14ClF3N4O2S2
